US04455317
Ethyl 3-Amino-3-methylbutyrate Hydrochloride
A mixture of 25 g (0.1 mole) of ethyl 3-(N-benzylamino)-3-methylbutyrate hydrochloride and approximately 2 g of 10% Pd-C in 250 ml of dried USP alcohol was hydrogenated under 55 psi H2 for four days. The reaction medium was then filtered and evaporated under reduced pressure to provide 18 g (100%) of an amber oil which gradually crystallized upon standing: mp 82°-83° C.; NMR (CD3OD) δ1.2 (t, J=7, Hz, 3, --CH2CH3) 1.5 (s, 6, two --CH3), 2.8 (s, 2, --CH2 --), 4.2 (q, J=7 Hz, 2, --CH2CH3). Analysis Calculated for C7H16NO2Cl: C, 46.28; H, 8.88; N, 7.71. Found: C, 46.46; H, 8.98; N, 7.90.

reactant | ethyl 3-(N-benzylamino)-3-methylbutyrate hydrochloride | 0.1 mole, 25 g | Cl.C(C1=CC=CC=C1)NC(CC(=O)OCC)(C)C
catalyst | Pd-C | approximately 2 g | [Pd] | Pd
product | Ethyl 3-Amino-3-methylbutyrate Hydrochloride | 18 g, 100% | Cl.NC(CC(=O)OCC)(C)C | InChI=1S/C7H15NO2.ClH/c1-4-10-6(9)5-7(2,3)8;/h4-5,8H2,1-3H3;1H
